US04618697
A mixture of 2-bromo-1,1-dimethoxy-1-(6-methoxy-2-naphthyl)-propane (3.39 g; 10 mmol), potassium acetate (1.2 g; 12 mmol), N,N-dimethylformamide (14 ml) and of water (8 ml) is heated at 100° C. under stirring for 48 h. The reaction mixture is worked up as described in example 1a to provide 2-(6-methoxy-2-naphthyl)-propionic acid (2.23 g; 9.7 mmol; yield 97%), m.p. 155°-157° C.

reactant | 2-bromo-1,1-dimethoxy-1-(6-methoxy-2-naphthyl)-propane | 10 mmol, 3.39 g | BrC(C(C1=CC2=CC=C(C=C2C=C1)OC)(OC)OC)C | C16H19BrO3
reactant | potassium acetate | 12 mmol, 1.2 g | C(C)(=O)[O-].[K+]
reactant | N,N-dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
solvent | water | 8 ml | O | H2O
product | 2-(6-methoxy-2-naphthyl)-propionic acid | 9.7 mmol, 2.23 g, yield 97% | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C14H14O3
